US06479487B1
1-(6-Hydroxyhexyl)-4-piperidone is prepared from 4-piperidone and 6-chloro-1-hexanol essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 6-chloro-1-hexanol | ClCCCCCCO | C6H13ClO
product | 1-(6-Hydroxyhexyl)-4-piperidone | OCCCCCCN1CCC(CC1)=O | C11H21NO2
